US04616084
0.41 ml of boron trifluoride etherate was added to a suspension of 4.70 g (25 mmols) of (1R, 5S)-3-phenyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one and 14.3 g (125 mmols--5 equivalents) of methyl 4-hydroxy-2-butinoate (R. A. Earl, Organic Synthese 60, 81) in 40 ml of anhydrous methylene chloride at room temperature. The mixture was stirred at room temperature for 1 hour, whereupon a clear solution formed. The solution was then poured into dilute NaHCO3 solution, the mixture was extracted with methylene chloride and the extracts were washed with water and dried over MgSO4. After the solvent had been evaporated off in vacuo and the residue had been filtered on 120 g of silica gel (toluene:ethyl acetate 2:3), 4.74 g (63%) of methyl 4-[3(R)-benzoylamino-2-azetidinon-4(R)-yloxy]-2-butinoate were obtained as colorless crystals, melting point: 142°-143° C, RF : 0.29 (toluene:ethyl acetate 2:3), [α]D20 =18.37° (1.0345 percent in acetone).

reactant | boron trifluoride etherate | 0.41 ml | B(F)(F)F.CCOCC
reactant | (1R, 5S)-3-phenyl-4-oxa-2,6-diazabicyclo[3.2.0]hept-2-en-7-one | 25 mmols, 4.70 g | C1(=CC=CC=C1)C1=N[C@H]2C(N[C@H]2O1)=O | C10H8N2O2
reactant | methyl 4-hydroxy-2-butinoate | 14.3 g | OCC#CC(=O)OC | C5H6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-[3(R)-benzoylamino-2-azetidinon-4(R)-yloxy]-2-butinoate | 4.74 g, 63% | C(C1=CC=CC=C1)(=O)N[C@H]1C(N[C@@H]1OCC#CC(=O)OC)=O | C15H14N2O5
